US05272164
Isopropyl N-cyano-3-pyridinecarboximidate (1.0 g, 5.3 mmol) was dissolved in methanol (15 ml), and 2-(4-aminophenyl)ethylamine (0.80 g; 5.8 mmol) was added. The mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate was crystallized from methanol-diethyl ether to give N-cyano-N'-[2-(4-aminophenyl)ethyl]-3-pyridinecarboximidamide (0.88 g, 3.3 mmol, yield: 63%) as colorless needles.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 5.3 mmol, 1.0 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 2-(4-aminophenyl)ethylamine | 5.8 mmol, 0.80 g | NC1=CC=C(C=C1)CCN | C8H12N2
solvent | methanol | 15 ml | CO | CH4O
product | N-cyano-N'-[2-(4-aminophenyl)ethyl]-3-pyridinecarboximidamide | 3.3 mmol, 0.88 g, yield: 63% | C(#N)NC(=NCCC1=CC=C(C=C1)N)C=1C=NC=CC1 | C15H15N5
